US08404859B2
Preparation of 3-Ethyl-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carboxylic acid methyl ester
To a solution of 3-Ethyl-thiophene-2,5-dicarboxylic acid 2-methyl ester (250 mg, 1.17 mmol) in anhydrous DMF (10 mL) was added triethylamine (0.50 mL, 3.51 mmol), HBTU (0.67 g, 1.76 mmol), HOBT (190 mg, 1.40 mmol), and 3-Aminomethyl phenol (160 mg, 1.29 mmol). The mixture was stirred at room temperature 2 d, then quenched by pouring into EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure. The residue was purified by flash chromatography with 0-50% EtOAc in hexane to afford the desired product (0.140 g, 38% yield).

reactant | 3-Ethyl-thiophene-2,5-dicarboxylic acid 2-methyl ester | 1.17 mmol, 250 mg | COC(=O)C=1SC(=CC1CC)C(=O)O | C9H10O4S
reactant | triethylamine | 3.51 mmol, 0.50 mL | C(C)N(CC)CC | C6H15N
reactant | HBTU | 1.76 mmol, 0.67 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBT | 1.40 mmol, 190 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 3-Aminomethyl phenol | 1.29 mmol, 160 mg | NCC=1C=C(C=CC1)O | C7H9NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-Ethyl-5-(3-hydroxy-benzylcarbamoyl)-thiophene-2-carboxylic acid methyl ester | 0.140 g, 38% yield | COC(=O)C=1SC(=CC1CC)C(NCC1=CC(=CC=C1)O)=O | C16H17NO4S
